US07332510B2
2-Chloro-4-[1-(4-fluoro-phenyl)-2-methyl-1H-imidazol-4-ylethynyl]-pyridine
2-Chloro-4-iodopyridine (1.39 g, 5.8 mmol) was dissolved in 50 mL dry THF. This mixture was evacuated and backfilled with argon several times to remove oxygen from the solution. Triphenylphosphine (39 mg, 0.15 mmol) and bis(triphenylphosphine)palladium(II)chloride (170 mg, 0.24 mmol) were added and the reaction mixture was stirred at room temperature for 1 h. Copper(I)iodide (28 mg, 0.15 mmol) and 4-ethynyl-1-(4-fluoro-phenyl)-2-methyl-1H-imidazole (970 mg, 4.84 mmol) were added. The reaction mixture was stirred at room temperature for 3 days. The solvent was evaporated. The residue was taken up in 100 mL water and extracted three times with ethyl acetate (100 mL each). The combined organic extracts were dried with magnesium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (cyclohexane/ethyl acetate/triethyl amine 1:0:0→10:10:1 gradient) and recrystallized from heptane and ethyl acetate. The desired product was obtained as a white solid (545 mg, 36%), MS: m/e=312.1 (M+H+).

reactant | 2-Chloro-4-iodopyridine | 5.8 mmol, 1.39 g | ClC1=NC=CC(=C1)I | C5H3ClIN
reactant | Triphenylphosphine | 0.15 mmol, 39 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-ethynyl-1-(4-fluoro-phenyl)-2-methyl-1H-imidazole | 4.84 mmol, 970 mg | C(#C)C=1N=C(N(C1)C1=CC=C(C=C1)F)C | C12H9FN2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.24 mmol, 170 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | Copper(I)iodide | 0.15 mmol, 28 mg | [Cu]I
product | 2-Chloro-4-[1-(4-fluoro-phenyl)-2-methyl-1H-imidazol-4-ylethynyl]-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=CC=C(C=C1)F)C | C17H11ClFN3
